US07947728B1
To 4′,5′-difluoro-2′-methoxy-biphenyl-4-ol (472 mg, 2 mmol, 2 eq) was added polymer-bound triphenyl-phosphine (667 mg, 2 mmol, 2 eq) and dichloromethane (10 mL). The mixture was placed under nitrogen, cooled in an ice bath, diisopropyl azodicarboxylate (0.394 mL, 2 mmol, 2 eq) was added drop-wise, stirred for 1.5 hr. A solution of 6-hydroxymethyl-indole-1-carboxylic acid tert-butyl ester (247 mg, 1 mmol, 1 eq) and triethylamine (0.279 mL, 2 mmol, 2 eq) in dichloromethane (2 mL) was added drop to portion wise and the reaction allowed to warm to room temperature overnight (20 hr). The reaction was filtered over Celite, adsorbed onto silica gel, and purified by flash chromatography with a gradient from 1-15% ethyl acetate in hexanes to yield 6-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-indole-1-carboxylic acid tert-butyl ester white/clear solid (288 mg, 62%). LC-MS (ES) calculated for C27H25F2NO2, 465.2; found m/z 466 [M+H]+.

reactant | 4′,5′-difluoro-2′-methoxy-biphenyl-4-ol | 2 mmol, 472 mg, 2 eq | FC1=CC(=C(C=C1F)C1=CC=C(C=C1)O)OC | C13H10F2O2
reactant | triphenyl-phosphine | 2 mmol, 667 mg, 2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 2 mmol, 0.394 mL, 2 eq | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 6-hydroxymethyl-indole-1-carboxylic acid tert-butyl ester | 1 mmol, 247 mg, 1 eq | C(C)(C)(C)OC(=O)N1C=CC2=CC=C(C=C12)CO | C14H17NO3
reactant | triethylamine | 2 mmol, 0.279 mL, 2 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 6-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-indole-1-carboxylic acid tert-butyl ester | 288 mg, 62% | C(C)(C)(C)OC(=O)N1C=CC2=CC=C(C=C12)COC1=CC=C(C=C1)C1=C(C=C(C(=C1)F)F)OC | C27H25F2NO4
